US04101662
4-(p-chlorobenzoyl)-1-[3-(p-chlorobenzoyl)propyl]piperidine Hydrochloride
A mixture of 4-(p-chlorobenzoyl)piperidine hydrochloride (10.5 g.; 0.04 mole), 2-(p-chlorophenyl)-2-(ω-chloropropyl)-1,3-dioxolane (10.5 g.; 0.04 mole) and sodium bicarbonate (13.5 g.; 0.16 mole) of n-butanol was refluxed for twenty hours. The hot mixture was filtered, the filtrate was concentrated at reduced pressure and the residual material was dissolved in a mixture of ethanol and 6N hydrochloric acid. The mixture was stirred 0.5 hour and hydrochloride salt which separated was collected by filtration. The salt was recrystallized from isopropanol-methanol (charcoal) to give 9.2 g. (57%) of the hydrochloride salt which melted at 253°-256° C.

reactant | 4-(p-chlorobenzoyl)piperidine hydrochloride | 0.04 mole, 10.5 g | Cl.ClC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | sodium bicarbonate | 0.16 mole, 13.5 g | C([O-])(O)=O.[Na+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(p-chlorobenzoyl)-1-[3-(p-chlorobenzoyl)propyl]piperidine Hydrochloride | Cl.ClC1=CC=C(C(=O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)Cl)=O)C=C1 | InChI=1S/C22H23Cl2NO2.ClH/c23-19-7-3-16(4-8-19)21(26)2-1-13-25-14-11-18(12-15-25)22(27)17-5-9-20(24)10-6-17;/h3-10,18H,1-2,11-15H2;1H
